US04087522
[(Cyclohexylcarbamoyl)methyl]phosphonic acid (V)
Cyclohexyl amine (0.045 mole) and dimethyl (carboxymethyl)phosphonate (0.04 mole) were dissolved in 100 ml. of methylene chloride. As the solution was stirred, dicyclohexylcarbodiimide (0.045 mole) was added portionwise. The solution was stirred overnight and the mixture filtered. The filtrate was concentrated to a solid and the solid recrystallized from an appropriate solvent such as methanol. m.p. 180°-3° C.; yield 57%.

reactant | Cyclohexyl amine | 0.045 mole | C1(CCCCC1)N | C6H13N
reactant | dimethyl (carboxymethyl)phosphonate | 0.04 mole | C(=O)(O)CP(OC)(OC)=O | C4H9O5P
reactant | dicyclohexylcarbodiimide | 0.045 mole | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | [(Cyclohexylcarbamoyl)methyl]phosphonic acid | yield 57% | C1(CCCCC1)NC(=O)CP(O)(O)=O | C8H16NO4P
